US06627651B1
To a solution of benzyl trans-4-aminomethylcyclohexylcarbamate hydrochloride (11.56 g), tetrahydro-4H-pyran-4-one (3.85 g), triethylamine (8 ml) and 1,8-diazabicyco[5,4,0]-7-undecene (5.85 g) in 1,2-dichloroethane (100 ml) was added at room temperature sodium triacetoxyborohydride (8.96 g), and the resulting mixture was stirred for 14 hours. To the reaction mixture were added 37% formalin (3.43 g) and sodium triacetoxyborohydride, and the resulting mixture was stirred further for 7 hours. The reaction mixture was mixed with water and was extracted with dichloromethane. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with anhydrous magnesium sulfate. After the resulting organic layer was concentrated under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethanol/ethyl acetate 1:4→1:2) to obtain benzyl trans-4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]cyclohexylcarbamate (8.45 g) as colorless crystals.

reactant | benzyl trans-4-aminomethylcyclohexylcarbamate hydrochloride | 11.56 g | Cl.NC[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O
reactant | tetrahydro-4H-pyran-4-one | 3.85 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 8.96 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formalin | 3.43 g | C=O | CH2O
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
product | benzyl trans-4-[N-methyl-N-(tetrahydropyran-4-yl)aminomethyl]cyclohexylcarbamate | 8.45 g | CN(C1CCOCC1)C[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C21H32N2O3
